US05510345
Preparation of 2,4-bis(1-adamantylamino)-6-(1-piperazinyl)pyrimidine
2,4-bis(1-adamantylamino)-6-chloropyrimidine is reacted with piperazine as described in Example 17 to give the title compound in a yield of 83.36%, m.p. 168°-175° C.

reactant | 2,4-bis(1-adamantylamino)-6-chloropyrimidine | C12(CC3CC(CC(C1)C3)C2)NC2=NC(=CC(=N2)NC23CC1CC(CC(C2)C1)C3)Cl | C24H33ClN4
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2,4-bis(1-adamantylamino)-6-(1-piperazinyl)pyrimidine | yield of 83.36% | C12(CC3CC(CC(C1)C3)C2)NC2=NC(=CC(=N2)NC23CC1CC(CC(C2)C1)C3)N3CCNCC3 | C28H42N6
